US04032544
(a) 6,7-Diethyl-1-tetralone
Alternatively 4-(3',4'-diethylphenyl) butanoic acid (23.3 g; 0.106 mole) may be cyclised by stirring at 100° C. with 80% sulphuric acid (115 ml) for 11/2 hours. After dilution, extraction into ether, and distillation 15.83 g (74%) of the tetralone was obtained.

reactant | 4-(3',4'-diethylphenyl) butanoic acid | 0.106 mole, 23.3 g | C(C)C=1C=C(C=CC1CC)CCCC(=O)O | C14H20O2
reactant | sulphuric acid | 115 ml | S(O)(O)(=O)=O | H2O4S
product | 6,7-Diethyl-1-tetralone | C(C)C=1C=C2CCCC(C2=CC1CC)=O | C14H18O
